US08859553B2
3-(2-(6-(Isopropylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from N-isopropyl-6-ethynylpyridazin-3-amine and 3-iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide in a manner similar to that described for in Example 1. The product was obtained as a pale yellow solid. Mp: 67-68° C.; 1H NMR (300 MHz, CDCl3) δ: 8.97 (1H, s), 8.06 (1H, s), 7.98-8.01 (1H, d, J=9.0 Hz), 7.97 (1H, s), 7.83-7.85 (1H, d, J=6.0 Hz), 7.58-7.60 (1H, d, J=6.0 Hz), 7.30-7.32 (2H, m), 6.61-6.64 (1H, d, J=9.0 Hz), 5.05 (1H, s), 4.02-4.05 (1H, m), 3.70 (2H, s), 2.79-2.99 (8H, brs), 2.66 (3H, s), 2.52 (3H, s), 1.29 (6H, m). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C30H34F3N6O: 551.2741. found: 551.2734.

reactant | N-isopropyl-6-ethynylpyridazin-3-amine | C(C)(C)NC=1N=NC(=CC1)C#C | C9H11N3
reactant | 3-iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | IC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C | C21H23F3IN3O
product | 3-(2-(6-(Isopropylamino)pyridazin-3-yl)ethynyl)-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | C(C)(C)NC1=CC=C(N=N1)C#CC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C | C30H33F3N6O
